US04507298
6-{4-[3-(1-Imidazolyl)-propyl]-phenyl}-3-oxo-2,3,4,5-tetrahydro-pyridazine
2 g of 4-{4-[3-(1-imidazolyl)-propyl]-phenyl}-4-oxo-butyric acid are suspended in 10 ml of water, 0.68 g of hydrazine hydrate are added and the mixture is then stirred at 90° C. for 2 hours. After the mixture has been cooled, it is extracted with chloroform and the chloroform solution is washed with water, dried over Na2SO4 and concentrated to dryness.

reactant | 4-{4-[3-(1-imidazolyl)-propyl]-phenyl}-4-oxo-butyric acid | 2 g | N1(C=NC=C1)CCCC1=CC=C(C=C1)C(CCC(=O)O)=O | C16H18N2O3
reactant | hydrazine hydrate | 0.68 g | O.NN
solvent | water | 10 ml | O | H2O
product | 6-{4-[3-(1-Imidazolyl)-propyl]-phenyl}-3-oxo-2,3,4,5-tetrahydro-pyridazine | N1(C=NC=C1)CCCC1=CC=C(C=C1)C=1CCC(NN1)=O | C16H18N4O
